US04420477
2-(2-Propynyloxyimino)-2-[2-(2,2,2-trifluoroacetamido)thiazol-4-yl]acetic acid (syn isomer) (1.05 g) was added at 0° C. to vilsmeier reagent which had been prepared from N,N-dimethylformamide (0.31 g) and phosphoryl chloride (0.65 g) in ethyl acetate (1.2 ml) and tetrahydrofuran (7.4 ml), and the mixture was stirred at the same temperature for 30 minutes to afford the activated solution. The activated solution was added dropwise at -5° to 0° C. to a solution of 7-amino 3-[1-(2-carboxy-2-methoxyiminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (1.40 g) in water (10 ml) and acetone (8 ml), adjusted to pH 8.0 with sodium bicarbonate and the mixture was stirred at the same temperature for 35 minutes. To the resultant mixture was added ethyl acetate (10 ml), and the aqueous layer was separated from the mixture. To the aqueous solution was added ethyl acetate (70 ml) and the mixture was adjusted to pH 1.8 with 10% hydrochlonic acid with stirring, and the ethyl acetate layer was separated, washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and evaporated. The residue was pulverized with diisopropyl ether to give 7-[2-(2-propynyloxyimino)-2-{2-(2,2,2-trifluoroacetamido)thiazol-4-yl}acetamido]-3-[1-(2-carboxy-2-methoxyiminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (syn isomer: in the 7-position) (2.05 g).

reactant | 2-(2-Propynyloxyimino)-2-[2-(2,2,2-trifluoroacetamido)thiazol-4-yl]acetic acid | 1.05 g | C(C#C)ON=C(C(=O)O)C=1N=C(SC1)NC(C(F)(F)F)=O | C10H6F3N3O4S
reactant | vilsmeier reagent | C[N+](=CCl)C.[Cl-]
reactant | phosphoryl chloride | 0.65 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-amino 3-[1-(2-carboxy-2-methoxyiminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | 1.40 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=NOC)C(=O)O)C(=O)O)C1=O | C13H15N7O6S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 1.2 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 7.4 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
solvent | acetone | 8 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 0.31 g | CN(C=O)C | C3H7NO
product | 7-[2-(2-propynyloxyimino)-2-{2-(2,2,2-trifluoroacetamido)thiazol-4-yl}acetamido]-3-[1-(2-carboxy-2-methoxyiminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | C(C#C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=NOC)C(=O)O)C(=O)O)C1=O)C=1N=C(SC1)NC(C(F)(F)F)=O | C23H19F3N10O9S3
